US07087612B2
2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide
7-(3-Fluoro-benzyloxy)-2-methyl-3H-quinazolin-4-one: To a mixture of 2-amino-4-(3-fluoro-benzyloxy)-benzoic acid (2.0 g, 7.7 mmol) and ethyl acetamidate HCl (1.9 g, 15.3 mmol) in methanol (30 mL) was added sodium methoxide (5.4 M, 0.83 g, 15.3 mmol) and the resulting mixture was heated under reflux for 19 h. After this time ethyl acetamidate HCl (1.9 g, 15.3 mmol) and sodium methoxide (5.4 M, 0.83 g, 15.3 mmol) was added and the resulting mixture heated for another 1 h. After cooling to rt the mixture was poured into water (40 mL) and then the resulting precipitate was stirred for 2 h, and filtered off to afford the title compound (2.1 g, 97%) as an off-white solid. MS: m/e=283.1 (M−H).

reactant | 7-(3-Fluoro-benzyloxy)-2-methyl-3H-quinazolin-4-one | FC=1C=C(COC2=CC=C3C(NC(=NC3=C2)C)=O)C=CC1 | C16H13FN2O2
reactant | 2-amino-4-(3-fluoro-benzyloxy)-benzoic acid | 7.7 mmol, 2.0 g | NC1=C(C(=O)O)C=CC(=C1)OCC1=CC(=CC=C1)F | C14H12FNO3
reactant | ethyl acetamidate HCl | 15.3 mmol, 1.9 g | CCOC(=O)C(=O)N.Cl
reactant | sodium methoxide | 15.3 mmol, 5.4 M, 0.83 g | C[O-].[Na+]
reactant | ethyl acetamidate HCl | 15.3 mmol, 1.9 g | CCOC(=O)C(=O)N.Cl
reactant | sodium methoxide | 15.3 mmol, 5.4 M, 0.83 g | C[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide | 2.1 g, 97% | FC=1C=C(COC2=CC=C3C(N(C(=NC3=C2)C)CC(=O)N)=O)C=CC1 | C18H16FN3O3
